US08008298B2
To a flask charged with Cs2CO3 (4.74 g), Copper(I) bromide (99 mg), and ethyl-2-cyclohexanone-carboxylate (248 mg) was added 3 mL of DMSO under an argon atmosphere. 1-bromo-3-iodobenzene (2.0 g) was added followed by a solution of 2-pyrrolidinone (715 mg) in 3 mL of DMSO. The reaction mixture was stirred at rt for 16 h and then heated to 90° C. for 24 h. The mixture was filtered over celite, concentrated and purified by flash chromatography (65:35 hexanes:ethyl acetate) to afford 983 mg of 1-(3-Bromo-phenyl)-pyrrolidin-2-one as a brown solid.

reactant | Cs2CO3 | 4.74 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 1-bromo-3-iodobenzene | 2.0 g | BrC1=CC(=CC=C1)I | C6H4BrI
reactant | 2-pyrrolidinone | 715 mg | N1C(CCC1)=O | C4H7NO
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
catalyst | Copper(I) bromide | 99 mg | [Cu]Br
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
product | 1-(3-Bromo-phenyl)-pyrrolidin-2-one | 983 mg | BrC=1C=C(C=CC1)N1C(CCC1)=O | C10H10BrNO
